US08937092B2
To a solution of N-(4-bromo-2-fluorobenzyl)ethanesulfonamide (305 mg, 1.03 mmol) in dimethylformamide, Manganese (113 mg, 2.06 mmol), (2,2′-Bipyridine)nickel(II)-dibromide (27 mg, 0.07 mmol), ethyl 2-chloropropanoate (0.17 mL, 1.34 mmol) was added. It was followed by addition of trifluoroacetic acid (0.002 mL, 0.028 mmol). The mixture was stirred for 24 h at 65° C. The reaction mixture was quenched by concentrated HCl (7 drops). Then it was extracted with diethyl ether, dried over magnesium sulfate, the solvent was evaporated in vacuo. It was purified by column chromatography to obtain ethyl 2-(4-(ethylsulfonamidomethyl)-3-fluorophenyl)propanoate in pure form (65 mg, 20%).

reactant | N-(4-bromo-2-fluorobenzyl)ethanesulfonamide | 1.03 mmol, 305 mg | BrC1=CC(=C(CNS(=O)(=O)CC)C=C1)F | C9H11BrFNO2S
reactant | ethyl 2-chloropropanoate | 1.34 mmol, 0.17 mL | ClC(C(=O)OCC)C | C5H9ClO2
reactant | trifluoroacetic acid | 0.028 mmol, 0.002 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | Manganese | 2.06 mmol, 113 mg | [Mn] | Mn
product | ethyl 2-(4-(ethylsulfonamidomethyl)-3-fluorophenyl)propanoate | C(C)S(=O)(=O)NCC1=C(C=C(C=C1)C(C(=O)OCC)C)F | C14H20FNO4S
